### PR TITLE
bernoulli probability measure

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

Bernoulli probability measure as defined in PR #749 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

##### Compatibility with MathComp 2.0

- [x] I added the label `TODO: HB port` to make sure someone ports this PR to
      the `hierarchy-builder` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: theories/measure.v [hunk 1]
```diff
@@ -2825,6 +2827,29 @@ HB.instance Definition _ x :=
 
 End pdirac.
 
+Section bernoulli.
+Variables (R : realType) (p : {nonneg R}) (p1 : (p%:num <= 1)%R).
+Local Open Scope ring_scope.
+
+Definition bernoulli : set _ -> \bar R := measure_add
```
Comment (zstone1) [inline theories/measure.v:2834]: This is a lot of text for what would be `p 1_true + (1-p) 1_false` on paper. It took me ~3 minutes to read, which is maybe an indictment of my own reading comprehension. But still, I would love to make this definition clean, and handle the `measure` stuff on the next line. Is there a way to do this?

**Review by zstone1 — COMMENTED** [review]
The new interval stuff may be cleaner here. And I am worried about legibility if we have to add these [measure of ] annotations to every term.

File: theories/measure.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/measure.v:2834]: You are totally right. It is time to make this happen. I turn this PR into a draft and work on this ASAP.

**Comment by affeldt-aist** [comment]
> The new interval stuff may be cleaner here. And I am worried about legibility if we have to add these [measure of ] annotations to every term.

Note that the [measure of _] annotations are really here for compatibility with Coq 8.15.

File: theories/measure.v [hunk 2]
```diff
@@ -2825,6 +2827,29 @@ HB.instance Definition _ x :=
 
 End pdirac.
 
+Section bernoulli.
+Variables (R : realType) (p : {nonneg R}) (p1 : (p%:num <= 1)%R).
```
[the remark this answers is not in the document]
Comment (affeldt-aist) [reply theories/measure.v:2831]: Yes, we should. Moreover, since this code is used in the PR on kernels, that would provide a test-bed for it.

File: theories/measure.v [hunk 3]
```diff
@@ -2826,6 +2828,26 @@ HB.instance Definition _ x :=
 
 End pdirac.
 
+Section bernoulli.
+Variables (R : realType) (p : {i01 R}).
+
+Definition bernoulli : set _ -> \bar R := measure_add
+  (mscale (NngNum (itv_ge0 p)) (dirac true))
```
Comment (affeldt-aist) [inline theories/measure.v:2835]: To hide `NngNum (itv_ge0 p)` I was hoping to turn `p%:inum` into an instance of non-negative number so as to use `p%:inum%:nng` instead (which is not much more readable but a bit more in the spirit). The following addition to `itv.v` is not enough:
```coq
Section tmp.
Context {T : numDomainType}.

Lemma i01_snum_subproof (p : {i01 T}) : Signed.spec 0%R ?=0 >=0 (Itv.r p).
Proof. by rewrite /=. Qed.

Canonical i01_snum (x : {i01 T}) := Signed.mk (i01_snum_subproof x).
End tmp.
```
Obviously, I am missing something. @proux01

Comment (proux01) [reply theories/measure.v:2835]: Sorry, I would also have expected it to work, I reduced it to the following minimal example
````Coq
Section Example.
Variable R : realDomainType.

Check erefl : @eq R 0 (Signed.r _).  (* correctly infers zero_snum *)
Check erefl : @eq R (Signed.r _) 0.  (* same *)

Variable x : {i01 R}.

Check erefl : @eq R (Signed.r _) (Itv.r x).  (* correctly infers i01_snum *)
Fail Check erefl : @eq R (Itv.r x) (Signed.r _).  (* why? I would also have expected the same result *)
````
and unfortunately the phantom behind `%:sgn` hence `%:nng` seems closer to the second failing case.

@CohenCyril would you have an idea of what's happening?

Anyhow, all this advocates for the project of merging signed and itv in the future.

**Comment by affeldt-aist** [comment]
One year ago this PR introduced the Bernoulli probability measure.
The main problem pointed at in particular by @zstone1  was that
the definition was not very readable. It was using `{i01 R}`.
In essence, this has not changed: the new definition uses
non-negative reals and a proof that they are smaller than one
(similar business).

This update also defines the binomial distribution `binomial_prob`
and the uniform distribution `uniform_prob`.

This update also defined "total" versions of the Bernoulli and
binomial distributions: `bernoulliT` and `binomial_probT`.
`bernoulliT` takes any real p and returns a dummy probability
measure when p is not in [0,1], and similarly for `binomial_probT`
so that for example `bernoulliT` satisifies:
```coq
Lemma bernoulliTE p U : 0 <= p <= 1 ->
  (bernoulliT p U = p%:E * \d_true U + (`1-p)%:E * \d_false U)%E.
```
which is close to the formulation that @zstone1  was expected
in his first review comment.

We have been using all these distributions to verify a probabilistic
program using https://github.com/math-comp/analysis/pull/912

I understand that @hoheinzollern  has also been using the definition
of the Bernoulli probability measure in his own work.

So, still not perfect but usable in practice, so what
about merging it (possibly marking it as experimental)?

PS: Here is the only commit of the PR before update,
for reference https://github.com/math-comp/analysis/pull/895/commits/87540b53429a3c9142d0dc1957934e1227b66d62

**Comment by affeldt-aist** [comment]
fyi: @proux01 @hoheinzollern (comments also welcomed if you have time)

**Comment by affeldt-aist** [comment]
I still have to move a few things around and to make the changelog and the doc
but I think that it addresses the comments from the last meeting.

**Comment by affeldt-aist** [comment]
@hoheinzollern @t6s the PR is now complete (with changelog and doc)

File: theories/lebesgue_measure.v [hunk 4]
```diff
@@ -1577,6 +1577,20 @@ move=> mf mg mD Y mY; have [| | |] := set_bool Y => /eqP ->.
...
+- under eq_fun do rewrite -subr_ge0.
+  rewrite preimage_true -preimage_itv_c_infty.
+  by apply: (measurable_funB mg mf) => //; exact: measurable_itv.
+- under eq_fun do rewrite leNgt -subr_gt0.
+  rewrite preimage_false set_predC setCK -preimage_itv_o_infty.
+  by apply: (measurable_funB mf mg) => //; exact: measurable_itv.
+- by rewrite preimage_set0 setI0.
+- by rewrite preimage_setT setIT.
+Qed.
+
```
Comment (t6s) [inline theories/lebesgue_measure.v:1593]: These two proofs can be slightly simplified by `measurable_fun_TF` (which btw I suggest renaming to `measurable_pred_TF`).

```
Lemma measurable_fun_ltr D f g : measurable_fun D f -> measurable_fun D g ->
  measurable_fun D (fun x => f x < g x).
Proof.
move=> mf mg mD; apply: measurable_fun_TF.
  under eq_fun do rewrite -subr_gt0.
  rewrite preimage_true -preimage_itv_o_infty.
  by apply: (measurable_funB mg mf) => //.
under eq_fun do rewrite ltNge -subr_ge0.
rewrite preimage_false set_predC setCK -preimage_itv_c_infty.
by apply: (measurable_funB mf mg) => //.
Qed.

Lemma measurable_fun_ler D f g : measurable_fun D f -> measurable_fun D g ->
  measurable_fun D (fun x => f x <= g x).
Proof.
move=> mf mg mD; apply: measurable_fun_TF.
  under eq_fun do rewrite -subr_ge0.
  rewrite preimage_true -preimage_itv_c_infty.
  by apply: (measurable_funB mg mf).
under eq_fun do rewrite leNgt -subr_gt0.
rewrite preimage_false set_predC setCK -preimage_itv_o_infty.
by apply: (measurable_funB mf mg).
Qed.
```

Comment (t6s) [reply theories/lebesgue_measure.v:1593]: Adding
```
Lemma measurableID A B : measurable A -> measurable (A `&` B) -> measurable (A `\` B).
Proof.
move=> mA /measurableC.
rewrite setCI; move/(measurableI A)=> /(_ mA).
by rewrite setIUr setICr set0U.
Qed.
```
and
```
Lemma measurable_fun_bool' D (f : T1 -> bool) b :
  measurable (D `&` f @^-1` [set b]) -> measurable_fun D f.
Proof.
move=> mb mD.
have mb': measurable (D `&` f @^-1` [set ~~ b]).
  rewrite (_ : [set ~~b] = [set~ b]); last by apply/seteqP; split=> -[]/=; clear; case: b.
  rewrite -preimage_setC.
  exact: measurableID.
by case: b mb mb' mD=> /= mb mb'; exact: measurable_fun_TF.
Qed.
```
in measure.v would simplify the above proofs further.

File: theories/measure.v [hunk 5]
```diff
@@ -1177,6 +1177,36 @@ have [-> _|-> _|-> _ |-> _] := subset_set2 YT.
...
+  measurable_fun D f.
+Proof.
+move=> mT mF mD /= Y mY.
+have := @subsetT _ Y; rewrite setT_bool => YT.
+move: mY; have [-> _|-> _|-> _ |-> _] := subset_set2 YT.
+- by rewrite preimage0 ?setI0.
+- exact: mT.
+- exact: mF.
+- by rewrite -setT_bool preimage_setT setIT.
+Qed.
```
Comment (t6s) [inline theories/measure.v:1192]: This can be strengthened as:
```
Lemma measurable_fun_bool' D (f : T1 -> bool) b :
  measurable (D `&` f @^-1` [set b]) -> measurable_fun D f.
Proof.
move=> mb mD.
have mb': measurable (D `&` f @^-1` [set ~~ b]).
  rewrite (_ : [set ~~b] = [set~ b]); last by apply/seteqP; split=> -[]/=; clear; case: b.
  rewrite -preimage_setC.
  exact: measurableID.
by case: b mb mb' mD=> /= mb mb'; exact: measurable_fun_TF.
Qed.
```

Comment (affeldt-aist) [reply theories/measure.v]: Let's replace the older `measurable_fun_bool` with this one.

**Comment by hoheinzollern** [comment]
Looks good to me.

**Review by hoheinzollern — APPROVED** [review]
Looks good to me.
